US08048884B2
To a solution of 3′-chloro-2,3,5,6-tetrahydro-[1,2′]bipyrazinyl-4-carboxylic acid t-butyl ester (10 g, 33.4 mmol, 1 eq) in 1,4-dioxane (160 mL) add a 4 M solution of hydrochloric acid in 1,4-dioxane (80 mL, 0.3 mol, 10 eq) and stir under nitrogen at room temperature overnight. Dilute with DCM (600 mL) then basify with 50% aqueous sodium hydroxide. Add water (100 mL), separate the layers and extract the aqueous twice with DCM (200 mL). Combine the organic extracts, wash with saturated aqueous sodium chloride, dry (magnesium sulfate), filter, and concentrate to give 3′-chloro-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl as a viscous oil which solidifies on standing (6.39 g, 96%). MS (ES): m/z=199.1, 201.1 [M+H]+.

reactant | 3′-chloro-2,3,5,6-tetrahydro-[1,2′]bipyrazinyl-4-carboxylic acid t-butyl ester | 33.4 mmol, 10 g, 1 eq | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC=CN=C1Cl | C13H19ClN4O2
reactant | hydrochloric acid | Cl | ClH
reactant | sodium hydroxide | [OH-].[Na+]
solvent | 1,4-dioxane | 160 mL | O1CCOCC1 | C4H8O2
solvent | DCM | 600 mL | C(Cl)Cl | CH2Cl2
solvent | 1,4-dioxane | 0.3 mol, 80 mL, 10 eq | O1CCOCC1 | C4H8O2
product | 3′-chloro-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl | ClC=1C(=NC=CN1)N1CCNCC1 | C8H11ClN4
